US06241785B1
At 0° C., hydrochloric acid (generated by dropwise addition of H2SO4 to NaCl) was bubbled in a two-necked flask containing 12 g (0.079 mol) of 3,4-dihydroxyacetophenone, 10.88 g (0.079 mol) of 2,4-dihydroxybenzaldehyde and 100 ml of ethyl acetate distilled beforehand. The product started to precipitate after 30 minutes. The bubbling was continued for another 1 hour and then the reaction was stopped. The solution was kept at −18° C. for 3 days and then it was filtered. The filtrate was evaporated and it was taken up in ether; the product precipitated. It was separated from the ether, dissolved in hot methanol and then it was added slowly to an equivalent volume of acetone. The solution was placed in a refrigerator and the product started to precipitate. After filtration, the filtrate was evaporated, dissolved in a minimum of methanol and then ether was added until a precipitate appeared. The procedure was thus repeated several times until precipitate no longer appeared. The purity of the 3′,4′,7-trihydroxyflavylium chloride precipitate thus obtained with a yield of 75% was checked by HPLC (high-performance liquid chromatography).

reactant | hydrochloric acid | Cl | ClH
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | NaCl | [Na+].[Cl-]
reactant | 3,4-dihydroxyacetophenone | 0.079 mol, 12 g | CC(=O)C=1C=CC(=C(C1)O)O | C8H8O3
reactant | 2,4-dihydroxybenzaldehyde | 0.079 mol, 10.88 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3′,4′,7-trihydroxyflavylium chloride | yield of 75% | [Cl-].OC=1C=C(C2=[O+]C3=CC(=CC=C3C=C2)O)C=CC1O | InChI=1S/C15H10O4.ClH/c16-11-4-1-9-3-6-14(19-15(9)8-11)10-2-5-12(17)13(18)7-10;/h1-8H,(H2-,16,17,18);1H
